US05846982
5-bromo-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 6.2 gm (31.6 mMol) 5-bromo-1H-indole and 4.7 gm (30.6 mMol) 4-piperidone monohydrate hydrochloride, 7.93 gm (93%) of the title compound were recovered as a solid.

reactant | 5-bromo-1H-indole | 31.6 mMol, 6.2 gm | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 4-piperidone monohydrate hydrochloride | 30.6 mMol, 4.7 gm | Cl.O.N1CCC(CC1)=O
product | 5-bromo-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 7.93 gm, 93% | BrC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13BrN2
